US07459454B2
(a) Preparation of (3-amino-pyrazin-2-yl)-methanol
Methyl-3-aminopyrazine-2-carboxylate (14.22 g, 93 mmol) was suspended in tetrahydrofuran (1 L) and cooled under a nitrogen atmosphere in a methanol/ice bath. Lithium aluminium hydride (100 ml, 1 M solution in diethyl ether, 100 mmol) was added at such a rate to maintain the temperature between 8-10° C. Once addition was complete the reaction was stirred at room temperature for 3 hours and then heated at reflux for 20 minutes. The reaction was then cooled to 0° C. and quenched with water (30 mL in 100 mL tetrahydrofuran) keeping the temperature below 8° C. The reaction was then stirred at room temperature for 30 minutes and then filtered. The residue was washed with hot ethyl acetate (250 mL×2) filtered. The two filtrates were combined and evaporated to dryness. This produced (3-amino-pyrazin-2-yl)methanol (7.38 g) as a pale orange solid.

reactant | Methyl-3-aminopyrazine-2-carboxylate | 93 mmol, 14.22 g | COC(=O)C1=NC=CN=C1N | C6H7N3O2
reactant | Lithium aluminium hydride | 100 mmol, 1 M, 100 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
product | (3-amino-pyrazin-2-yl)-methanol | NC=1C(=NC=CN1)CO | C5H7N3O
